2130-09-27 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 11pm hct<23, transfused 1U pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-26**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-27**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 108 (67 - 108) bpm
   BP: 116/68(80) {115/68(80) - 152/82(96)} mmHg
   RR: 15 (12 - 15) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    881 mL
                                                                  1,446 mL
   PO:
           TF:
   IVF:
                                                                    881 mL
                                                                  1,170 mL
   Blood products:
   276 mL
   Total out:
                                                                    600 mL
                                                                    500 mL
   Urine:
                                                                    600 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                    946 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1398**]: 56
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   10.5 g/dL
   250 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   139 mEq/L
   29.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2130-9-26**]  07:00 PM
                             [**2130-9-26**]  10:51 PM
                             [**2130-9-27**]  04:49 AM
   WBC
   8.7
   11.7
   Hct
   22.3
   29.3
   Plt
   206
   296
   Cr
   0.8
   Glucose
   250
   250
   Other labs: Differential-Neuts:88.6 %, Lymph:7.7 %, Mono:3.5 %, Eos:0.1
   %, Ca++:8.4 mg/dL, Mg++:0.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   66 yoM w/ a h/o DM and prostate cancer presents for prosatectomy, c/b
   1.5 L EBL and difficult intubation- sent to [**Hospital Unit Name 1**] as is intubated and
   for hemodynamic monitoring.
   .
   Plan:
   # S/P PROSTATECTOMY POST OP CARE:
   Pt is s/p suprapubic prostatectomy for prostate cancer with multiple
   bouts of urinary retention (partial prostatectomy with plans to have
   radition therapy in future), EBL 1500cc.  Rec'd 6L IVF and 2uPRBC.
   -Has a 3 way foley w/ cbi- titrate to light pink and hand irrigate for
   clots prn per urology
   -patient is at risk for RP bleed - will check q6hr hct, maintain active
   type and screen, 2 large bore IVs
   -hct is 25.5 down from 36 at baseline-  this drop in hct is expected
   with 1500cc of blood loss in addition to 6L of fluids
   -tx for hct < 23
   -hemodynamically stable
   -f/u urology recs
   -continue D5LR per urology @ 150cc / hr
   .
   # DIFFICULT AIRWAY: given difficult airway will leave intubated
   overnight, the patient has no known CAD but has HTN and DM so may have
   some diastolic dysfunction or systolic heart failure and may need some
   diuresis prior to extubation.
   -no cuff leak, 5x attempts at intubation so likely has some upper
   airway trauma, will need to evaluate for cuff leak prior to planned
   extubation, also may need laryngoscopy prior to extubation
   -maintain on pressure support overnight, keep on propofol and wake up
   in a.m. to assess MS [**First Name (Titles) **] [**Last Name (Titles) 1398**]
   -CXR now and in a.m.
   -will give decadron 4mg IV x 1
   .
   # DM: will hold oral hypoglycemics, A1C was 10% in [**Month (only) **], had been as
   high as 13% in the past.
   -monitor fingersticks q 6hrs and treat w/ sliding scale insulin,
   -NPO for now
   .
   # HTN: will hold lisinopril for now given risk of bleed.
   -start captopril in a.m. if BP okay.
   -1st set of cardiac enzymes negative, no need to rule out for MI, EKG
   without ischemic changes.
   .
   # Leukocytosis: baseline normal WBC count.  Will send blood cultures,
   u/a and urine culture, CXR w/o infiltrate, sputum culture, and will
   trend fever curve.
   -likely stress response to surgery / large amount of bleeding but will
   monitor for infection
   -trend leukocytosis, add on diff
   -if diarrhea send C diff (did get 1x dose of levoflox prior to surgery)
   .
   # Hypercholesterolemia: continue simvastatin
   .
   # FEN:  NPO, PPI, electrolyte sliding scales
   .
   # Access:   2xPIV
   .
   # PPx:  hold sc heparin given bleeding, pneumoboots
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU, when called out will go to urology most likely
   .
   # Comm:
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2130-9-26**] 08:12 PM
   20 Gauge - [**2130-9-27**] 12:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-09-28 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - I/O goal -500cc to 1L --> was -646 at 2300 (10mg IV lasix x1)
   - Urology recs: no diet, check Hct q8
   - call anesthesia prior to extubation
   - did not start TF per urology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-9-27**] 05:45 PM
   Pantoprazole (Protonix) - [**2130-9-27**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-28**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 117 (103 - 127) bpm
   BP: 101/63(71) {73/47(53) - 146/88(99)} mmHg
   RR: 20 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,695 mL
                                                                    122 mL
   PO:
             TF:
   IVF:
                                                                  2,419 mL
                                                                    122 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  3,300 mL
                                                                    530 mL
   Urine:
                                                                  3,300 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -605 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 349 (349 - 622) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   10.5 g/dL
   250 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   139 mEq/L
   26.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2130-9-26**]  07:00 PM
                             [**2130-9-26**]  10:51 PM
                             [**2130-9-27**]  04:49 AM
                             [**2130-9-27**]  03:08 PM
                             [**2130-9-28**]  12:08 AM
   WBC
   8.7
   11.7
   Hct
   22.3
   29.3
   28.3
   26.8
   Plt
   206
   296
   Cr
   0.8
   Glucose
   250
   250
   Other labs: PT / PTT / INR:12.8/22.7/1.0, Differential-Neuts:88.6 %,
   Lymph:7.7 %, Mono:3.5 %, Eos:0.1 %, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   66 yoM w/ a h/o DM and prostate cancer presents for prosatectomy, c/b
   1.5 L EBL and difficult intubation- sent to [**Hospital Unit Name 1**] as is intubated and
   for hemodynamic monitoring.
    # DIFFICULT AIRWAY: Gven difficult airway will leave intubated
   overnight, the patient has no known CAD but has HTN and DM so may have
   some diastolic dysfunction or systolic heart failure and may need some
   diuresis prior to extubation. No cuff leak this morning, indicating
   swelling around ETT.
   - Hold off on extubation
 diurese first given high fluid input in OR,
   although patient does not appear fluid overloaded on exam or on chest
   radiograph
   - Diurese with furosemide to help reduce laryngeal swelling
   - Sedate so that patient is not agitated
 pulled out IV this morning
   - CXR now and in a.m.
   # S/P PROSTATECTOMY POST OP CARE:
   Pt is s/p suprapubic prostatectomy for prostate cancer with multiple
   bouts of urinary retention (partial prostatectomy with plans to have
   radition therapy in future), EBL 1500cc.  Rec'd 6L IVF and 2uPRBC in
   OR, and 1U pRBCs after arriving in [**Hospital Unit Name 1**].
   - Per urology recs, d/c CBI
   - Patient still at risk for RP bleed - will check q6hr hct for one
   additional day, maintain active type and screen, 2 large bore IVs
   - Transfuse for hct < 23
   - F/u urology recs
   - D/c IVF
   # DM: will hold oral hypoglycemics, A1C was 10% in [**Month (only) **], had been as
   high as 13% in the past.
   -monitor fingersticks q 6hrs and treat w/ sliding scale insulin,
   # HTN: will hold lisinopril for now given risk of bleed.
   -start captopril in a.m. if BP elevated
   # Leukocytosis: baseline normal WBC count.  Will send blood cultures,
   u/a and urine culture, CXR w/o infiltrate, sputum culture, and will
   trend fever curve.
   -likely stress response to surgery / large amount of bleeding but will
   monitor for infection
   -trend leukocytosis, add on diff
   -if diarrhea send C diff (did get 1x dose of levoflox prior to surgery)
   # Hypercholesterolemia: continue simvastatin
   # FEN:  PPI, electrolyte sliding scales
   - As may have 1+ days before extubation, consider starting TF
   - Nutrition consult
   # Access:   2xPIV
   # PPx:  hold sc heparin given bleeding, pneumoboots
   # Code:  FULL CODE
   # Dispo:  ICU, when called out will go to urology most likely
   # Comm:
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2130-9-26**] 08:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-09-29 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-9-28**] 08:24 AM
 SPUTUM CULTURE - At [**2130-9-28**] 08:24 AM
 BLOOD CULTURED - At [**2130-9-28**] 09:00 AM
 ARTERIAL LINE - START [**2130-9-28**] 09:43 AM
 MULTI LUMEN - START [**2130-9-28**] 11:05 AM
 FEVER - 103.2
F - [**2130-9-28**] 08:00 AM
   - CVL and arterial line placed
   - Sputum gram stain, 4+ GPC in pairs and chains, 3+ GNR.
   - SBP>180 with beginning of each infusion of ceftazadime then returns
   to prior BP.  KVO piggy backed onto levophed line, so pt getting a
   bolus of levophed every time ceftaz started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-28**] 08:03 PM
   Ciprofloxacin - [**2130-9-28**] 09:57 PM
   Ceftazidime - [**2130-9-29**] 12:17 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-28**] 08:03 PM
   Midazolam (Versed) - [**2130-9-28**] 08:03 PM
   Fentanyl - [**2130-9-28**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.7
C (99.8
   HR: 100 (87 - 147) bpm
   BP: 132/62(86) {72/39(52) - 132/62(86)} mmHg
   RR: 13 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 5 (1 - 11)mmHg
   Total In:
                                                                  5,503 mL
                                                                    389 mL
   PO:
   TF:
   IVF:
                                                                  5,463 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                    565 mL
   Urine:
                                                                  3,080 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,423 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 376 (376 - 376) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.44/48/137/30/7
   Ve: 6.2 L/min
   PaO2 / FiO2: 343
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   11.8 g/dL
   140 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.3 mEq/L
   10 mg/dL
   106 mEq/L
   141 mEq/L
   33.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2130-9-26**]  10:51 PM
                             [**2130-9-27**]  04:49 AM
                             [**2130-9-27**]  03:08 PM
                             [**2130-9-28**]  12:08 AM
                             [**2130-9-28**]  05:57 AM
                             [**2130-9-28**]  07:47 AM
                             [**2130-9-28**]  11:46 AM
                             [**2130-9-28**]  08:02 PM
                            [**2130-9-29**]  04:42 AM
                            [**2130-9-29**]  05:07 AM
   WBC
   8.7
   11.7
   11.5
   8.6
   Hct
   22.3
   29.3
   28.3
   26.8
   31.3
   33.4
   Plt
   [**Telephone/Fax (3) 2570**]79
   Cr
   0.8
   1.0
   0.7
   TCO2
   31
   30
   32
   34
   Glucose
   [**Telephone/Fax (3) 2571**]
   Other labs: PT / PTT / INR:13.6/28.1/1.2, Differential-Neuts:85.9 %,
   Lymph:10.6 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:7.7
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   66 yoM w/ a h/o DM and prostate cancer presents for prosatectomy, c/b
   1.5 L EBL and difficult intubation- sent to [**Hospital Unit Name 1**] as is intubated and
   for hemodynamic monitoring.
   # Infiltrate, fever
 Become hypotensive this morning and with
   infiltrate on radiograph. Also febrile to 103. Likely sepsis secondary
   to pneumonia
   - Sputum culture, blood cultures x2 sent
   - Vancomycin, ceftaz, and ciprofloxacin started given MDR bacterial
   source
   - Central line, arterial line placed
   - Monitor WBC count, fever curve
   - Maintain MAP>65 with fluid boluses as needed
   # Tachycardia
 Sinus tachycardia. Likely secondary to infection,
   sepsis. Other possibilities
 pain, anxiety, PE, hypoxia. ABG sent
   hypoxic. TSH sent.
   - Continue to monitor
   # DIFFICULT AIRWAY:
   - Hold off on extubation given hemodynamic instability, secretions.
   # S/P PROSTATECTOMY POST OP CARE:
   Pt is s/p suprapubic prostatectomy for prostate cancer with multiple
   bouts of urinary retention (partial prostatectomy with plans to have
   radition therapy in future), EBL 1500cc.  Rec'd 6L IVF and 2uPRBC in
   OR, and 1U pRBCs after arriving in [**Hospital Unit Name 1**].
   - Per urology recs, CBI d/c
d [**9-27**]
   - Patient still at risk for RP bleed - will check q6hr hct for one
   additional day, maintain active type and screen, 2 large bore IVs
   - Transfuse for hct < 23
   - F/u urology recs
   # DM: will hold oral hypoglycemics, A1C was 10% in [**Month (only) **], had been as
   high as 13% in the past.
   -monitor fingersticks q 6hrs and treat w/ sliding scale insulin,
   # HTN: will hold lisinopril for now given risk of bleed.
   - Continue to hold BP meds given sepsis
   # Hypercholesterolemia: continue simvastatin
   # FEN:  PPI, electrolyte sliding scales; NPO for now, will consider TF
   if will be intubated for next few days.
   # Access:   2xPIV, central line, arterial line
   # PPx:  hold sc heparin given bleeding, pneumoboots
   # Code:  FULL CODE
   # Dispo:  ICU, when called out will go to urology most likely
   # Comm:
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2130-9-26**] 08:12 PM
   18 Gauge - [**2130-9-28**] 08:46 AM
   Arterial Line - [**2130-9-28**] 09:43 AM
   Multi Lumen - [**2130-9-28**] 11:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-09-30 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-9-29**] 01:33 PM
 SPUTUM CULTURE - At [**2130-9-29**] 01:33 PM
 URINE CULTURE - At [**2130-9-29**] 01:33 PM
 FEVER - 101.6
F - [**2130-9-29**] 01:00 PM
   - Pancultured at 1:30PM for T101.6
        - Sputum gram stain with gram positive cocci in pairs
   - Hypotensive at 2:30PM to MAPs 54-60; propofol dose reduced and given
   1L bolus with good response
   - Bowel regimen added
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-29**] 08:00 PM
   Ciprofloxacin - [**2130-9-29**] 09:51 PM
   Ceftazidime - [**2130-9-30**] 12:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-29**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   C/o abdominal pain this morning; denies back pain, chest pain, SOB
   though ROS limited by language barrier
   Flowsheet Data as of  [**2130-9-30**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 99 (93 - 112) bpm
   BP: 107/53(72) {74/42(53) - 137/69(91)} mmHg
   RR: 12 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  3,097 mL
                                                                    218 mL
   PO:
   TF:
   IVF:
                                                                  3,012 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    510 mL
   Urine:
                                                                  1,630 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,467 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.47/41/130/28/6
   Ve: 5.8 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General: Arousable, now following commands (?language barrier)
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Good air movement bilaterally; CTA bilaterally; no wheezes,
   rales, or rhonchi
   Abd: Incision site C/D/I; decreased bowel sounds; no eccymoses; mildly
   tender (suprapubic)
   Back: Nontender to palpation; no eccymoses noted
   Ext: Lower extremity pulses present but decreased; radial pulses 2+
   Labs / Radiology
   271 K/uL
   7.4 g/dL
   90 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   7 mg/dL
   105 mEq/L
   139 mEq/L
   21.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2130-9-27**]  03:08 PM
                             [**2130-9-28**]  12:08 AM
                             [**2130-9-28**]  05:57 AM
                             [**2130-9-28**]  07:47 AM
                             [**2130-9-28**]  11:46 AM
                             [**2130-9-28**]  08:02 PM
                            [**2130-9-29**]  04:42 AM
                            [**2130-9-29**]  05:07 AM
                            [**2130-9-30**]  05:32 AM
                            [**2130-9-30**]  05:37 AM
   WBC
   11.5
   8.6
   11.8
   Hct
   28.3
   26.8
   31.3
   33.4
   21.5
   Plt
   [**Telephone/Fax (3) 2603**]
   Cr
   1.0
   0.7
   0.6
   TCO2
   31
   30
   32
   34
   31
   Glucose
   149
   140
   90
   Other labs: PT / PTT / INR:13.6/29.0/1.2, Differential-Neuts:85.9 %,
   Lymph:10.6 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:7.7
   mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
   66 yoM w/ a h/o DM and prostate cancer presented for prostatectomy, c/b
   1.5 L EBL and difficult intubation- sent to [**Hospital Unit Name 1**] as is intubated and
   for hemodynamic monitoring
   #. Drop in hematocrit
 Ten-eleven point drop in hematocrit over past
   24 hours. Differential includes hemolysis vs. internal hemorrhage.
   Given recent surgery, at risk for intraabdominal bleed. Discussed with
   urology.
   - Transfuse 2U pRBCs now
   - STAT CT abdomen without contrast
   - Hemolysis labs
   #. SEPSIS
 Likely secondary to pneumonia. Elevated WBC count. Spike
   fever to 101.6 yesterday. Episode of hypotension (MAP<60) yesterday,
   which may be secondary to sepsis OR rapid bleed. Sputum gram stain with
   GPCs and GNRs and only GPCs in second sample; cultures negative to
   date. No pressor for over 24 hours.
   - Continue to monitor blood and sputum cultures
   - Continue vancomycin, ceftaz, and cipro (started [**2130-9-28**])
 will focus
   therapy once cultures return
   - Central line, arterial line
   - Monitor WBC count, fever curve
   - Maintain MAP>65 with fluid boluses as needed
   #. DIFFICULT AIRWAY: Good RSBI this morning. Continued thick
   secretions.
   - Hold off on extubation given hemodynamic instability and secretions
   will reassess later this afternoon.
   #. S/P PROSTATECTOMY:
   Pt is s/p suprapubic prostatectomy for prostate cancer with multiple
   bouts of urinary retention (partial prostatectomy with plans to have
   radition therapy in future), EBL 1500cc.  Rec'd 6L IVF and 2uPRBC in
   OR, and 1U pRBCs after arriving in [**Hospital Unit Name 1**].
   - Per urology recs, CBI d/c
d [**9-27**]
   - Transfuse for hematocrit<23; unlikely to be needed as hematocrit has
   been rising since procedure; check hematocrit daily
   - F/u urology recs
   #. DM: Will hold oral hypoglycemics, A1C was 10% in [**Month (only) **], had been as
   high as 13% in the past.
   - SSI
   #. HTN:
   - Continue to hold BP meds given sepsis
   #. Hypercholesterolemia: Simvastatin currently held.
   #. FEN:  PPI, electrolyte sliding scales; NPO for now
   - Urology would like to hold off on tubefeeds at this point
   #. Access: 2xPIV, central line, arterial line
   #. PPx: Pneumoboots
   #. Code: FULL CODE
   #. Dispo: ICU, when called out will go to urology most likely
   #. Comm: Daughter
 phone number on whiteboard in room
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2130-9-26**] 06:30 PM
   18 Gauge - [**2130-9-28**] 08:46 AM
   Arterial Line - [**2130-9-28**] 09:43 AM
   Multi Lumen - [**2130-9-28**] 11:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-09-30 08:44:00 Physician Attending Progress Note
24 Hour Events:
   Febrile yesterday afternoon and repeat cultures sent.  Also developed
   episode of hypotension, responded to decreased propofol dose and bolus
   of 1L NS.  Awake this morning and indicated some abdominal pain.
   Noteworthy, patient developed decreased HCT from 32 to 21, but
   currently HD stable.  Planning to go to abdominal CT this morning to
   evaluate for RP bleed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-29**] 08:00 PM
   Ciprofloxacin - [**2130-9-29**] 09:51 PM
   Ceftazidime - [**2130-9-30**] 12:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-29**] 08:15 PM
   Other medications:
   Changes to medical and family history:  NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Intubated/sedated
   Flowsheet Data as of  [**2130-9-30**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 99 (94 - 112) bpm
   BP: 107/53(72) {74/42(53) - 137/69(91)} mmHg
   RR: 12 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  3,097 mL
                                                                    246 mL
   PO:
   TF:
   IVF:
                                                                  3,012 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    510 mL
   Urine:
                                                                  1,630 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,467 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.47/41/130/28/6
   Ve: 6.5 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   271 K/uL
   90 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   7 mg/dL
   105 mEq/L
   139 mEq/L
   20.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2130-9-28**]  12:08 AM
                             [**2130-9-28**]  05:57 AM
                             [**2130-9-28**]  07:47 AM
                             [**2130-9-28**]  11:46 AM
                             [**2130-9-28**]  08:02 PM
                            [**2130-9-29**]  04:42 AM
                            [**2130-9-29**]  05:07 AM
                            [**2130-9-30**]  05:32 AM
                            [**2130-9-30**]  05:37 AM
                            [**2130-9-30**]  06:39 AM
   WBC
   11.5
   8.6
   11.8
   Hct
   26.8
   31.3
   33.4
   21.5
   20.4
   Plt
   [**Telephone/Fax (3) 2603**]
   Cr
   1.0
   0.7
   0.6
   TCO2
   31
   30
   32
   34
   31
   Glucose
   149
   140
   90
   Other labs: PT / PTT / INR:13.6/29.0/1.2, Differential-Neuts:85.9 %,
   Lymph:10.6 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:7.7
   mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   1) PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP): Continues to
   oxygenate well and RISB of 23.  Febrile yesterday and slight rise in
   WBC, all cultures negative.  Covered broadly with
   vancomycin/cipro/ceftaz D#3.  Hemodynamically stable and overall
   improving.
   - Continue current vancomycin/cipro/ceftaz for another 24h; if cultures
   negative will consider tailoring tomorrow.
   2) Heme: HCT dropped acutely, also episode of hypotension yesterday
   responsive to fluids. Guaiac negative, no clear source of bleeding.
   Concern for RP bleed given post-op from prostatectomy.
   - Transfuse 2 units PRBC, follow HCT q6h today
   - Check hemolysis labs
   - Obtain non-contrast abd CT to evaluate for surgical bleed/RP bleed
   3) Respiratory Failure:  Initially remained intubation related to
   difficult intubation and subsequently developed VAP. Curently
   oxygenation is stable and ventilation is appropriate.  RSBI 24.
   - Remain intubated this morning for abd CT.  Pending results, will
   consider SBT and extubation today after checking cuff leak this
   afternoon.
   - Will need anesthesia present if extubation planned given difficult
   airway issues initially.
   4) Post-op prostectomy:  Stable and evaluating bleed as above.
   - follow-up urology recs and appreciate input today.
   ICU Care
   Nutrition:
   Awaiting return of bowel function and evaluation of bleed, on hold per
   urology.
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   16 Gauge - [**2130-9-26**] 06:30 PM
   18 Gauge - [**2130-9-28**] 08:46 AM
   Arterial Line - [**2130-9-28**] 09:43 AM
   Multi Lumen - [**2130-9-28**] 11:05 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition :  Remains intubated to evaluate
   Total time spent:
   Patient is critically ill

2130-10-01 07:26:00 Physician Resident Progress Note
Chief Complaint: Sepsis, prostate CA, anemia
   24 Hour Events:
   - CT-abd was negative for bleed
   - pt got 2U pRBC and Hct was 28.9 (previous 20.8)
   - Hemolysis labs negative
   - pt was sucessfully extubated
   - Sputum cx growing GNR (sparse growth)
   - pt was sucessfully extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-9-30**] 08:05 PM
   Ciprofloxacin - [**2130-9-30**] 10:10 PM
   Ceftazidime - [**2130-10-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-9-30**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-10-1**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 92 (88 - 116) bpm
   BP: 153/69(98) {113/57(76) - 166/79(108)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,293 mL
                                                                    174 mL
   PO:
             TF:
   IVF:
                                                                  1,543 mL
                                                                    174 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,875 mL
                                                                  1,090 mL
   Urine:
                                                                  3,875 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,582 mL
                                                                   -916 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 27 (27 - 27) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 3.1 L/min
   Physical Examination
   General:
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Good air movement bilaterally; CTA bilaterally; no wheezes,
   rales, or rhonchi
   Abd: Incision site C/D/I; decreased bowel sounds; no eccymoses; mildly
   tender (suprapubic)
   Back: Nontender to palpation; no eccymoses noted
   Ext: Lower extremity pulses present but decreased; radial pulses 2+
   Labs / Radiology
   317 K/uL
   10.0 g/dL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   5 mg/dL
   100 mEq/L
   140 mEq/L
   28.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2130-9-28**]  11:46 AM
                             [**2130-9-28**]  08:02 PM
                            [**2130-9-29**]  04:42 AM
                            [**2130-9-29**]  05:07 AM
                            [**2130-9-30**]  05:32 AM
                            [**2130-9-30**]  05:37 AM
                            [**2130-9-30**]  06:39 AM
                            [**2130-9-30**]  10:59 AM
                            [**2130-9-30**]  08:20 PM
                            [**2130-10-1**]  04:00 AM
   WBC
   8.6
   11.8
   12.9
   Hct
   33.4
   21.5
   20.4
   20.8
   28.9
   28.2
   Plt
   179
   271
   317
   Cr
   0.7
   0.6
   0.6
   TCO2
   30
   32
   34
   31
   Glucose
   140
   90
   120
   Other labs: PT / PTT / INR:13.5/28.9/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:82.9 %, Lymph:9.8 %, Mono:5.8 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, LDH:165 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.5
   mg/dL
   Imaging: CTAP: No evidence of pelvic hemorrhage.
   Microbiology: Sputum ([**10-1**]):    GRAM STAIN (Final [**2130-9-29**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   Mr. [**Known lastname **] is a 66 year old male with a PMH significant for DM and
   prostate CA admitted to the [**Hospital Unit Name 1**] with difficult intubation and 1.5 EBL
   now with sepsis secondary to pneumonia.
   .
   # Anemia: Patient with significant hct drop yesterday, received 2 units
   PRBC with appropriate increase in hct.  Hemolysis labs negative and CT
   abdomen negative, likely secondary to post-op bleeding.  Hct this AM
   stable.
   - Trend hct.
   .
   # Sepsis: Likely secondary to pneumonia.  Tmax 100.7 overnight with
   continued leukocytosis.  Hemodynamically stable overnight, and has been
   off pressor support for >24 hours.
   - Continue to monitor VS for hemodynamic stability.
   - Continue vancomycin, ceftazidime, and ciprofloxacin.
   .
   # Sepsis: Likely secondary to pneumonia. Elevated WBC count. Spike
   fever to 101.6 yesterday. Episode of hypotension (MAP<60) yesterday,
   which may be secondary to sepsis OR rapid bleed. Sputum gram stain with
   GPCs and GNRs and only GPCs in second sample; cultures negative to
   date. No pressor for over 24 hours.  Repeat sputum culture with sparse
   growth.
   - Continue to monitor blood and sputum cultures
   - As no specific isolate speciated, continue vancomycin,
   ceftazidime,and ciprofloxacin.
   - IVF bolus as needed.
   .
   # DIFFICULT AIRWAY: Good RSBI this morning. Continued thick secretions.
   - Hold off on extubation given hemodynamic instability and secretions
   will reassess later this afternoon.
   .
   # Prostate CA: Patient is s/p suprapubic prostatectomy for prostate
   cancer with multiple bouts of urinary retention (partial prostatectomy
   with plans to have radition therapy in future), EBL 1500cc.  Rec'd 6L
   IVF and 2uPRBC in OR, and 1U pRBCs after arriving in [**Hospital Unit Name 1**].
   - Per urology recs, CBI d/c
d [**9-27**]
   - Transfuse for hematocrit<23
   - F/u urology recs
   .
   # DM: Will hold oral hypoglycemics, A1C was 10% in [**Month (only) **], had been as
   high as 13% in the past.
   - ISS and accuchecks
   .
   # HTN: Continue to hold BP meds given recent sepsis.
   .
   #. Hypercholesterolemia: Simvastatin currently held.
   .
   # FEN: Sips of clears -ADAT. Replete as necessary.
   .
   # Access: 2xPIV, central line, arterial line
   .
   # PPx: Pneumoboots, PPI
   .
   #. Code: FULL CODE
   .
   #. Dispo: Call out to urology today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2130-9-26**] 06:30 PM
   18 Gauge - [**2130-9-28**] 08:46 AM
   Arterial Line - [**2130-9-28**] 09:43 AM
   Multi Lumen - [**2130-9-28**] 11:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-10-01 11:05:00 Physician Attending Progress Note
24 Hour Events:
   Extubated yesterday and doing well overnight.  Primary issue yesterday
   was evaluation for acute bleed given drop in HCT; however, Abd CT was
   negative for bleed and he responded appropriately to 2 units of PRBCs.
   Otherwise stable and doing well, no complaints this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2130-10-1**] 12:00 AM
   Vancomycin - [**2130-10-1**] 08:00 AM
   Ciprofloxacin - [**2130-10-1**] 08:54 AM
   Other ICU medications:
   Pantoprazole
   Insulin Sliding Scale
   Colace
   Senna
   APAP prn
   Flowsheet Data as of  [**2130-10-1**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 97 (88 - 116) bpm
   BP: 151/72(100) {113/58(79) - 166/79(108)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,293 mL
                                                                    660 mL
   PO:
             TF:
   IVF:
                                                                  1,543 mL
                                                                    660 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,875 mL
                                                                  1,890 mL
   Urine:
                                                                  3,875 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,582 mL
                                                                 -1,230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   Physical Examination
   Gen:  Not acutely ill appearing, conversant and without complaint
   Chest:  Clear fields, no stridor
   CV: RRR without murmur
   Abd: s/nt/nd
   Ext:  No edema, warm/well-perfused
   Labs / Radiology
   10.0 g/dL
   317 K/uL
   120 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   5 mg/dL
   100 mEq/L
   140 mEq/L
   28.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2130-9-28**]  11:46 AM
                             [**2130-9-28**]  08:02 PM
                            [**2130-9-29**]  04:42 AM
                            [**2130-9-29**]  05:07 AM
                            [**2130-9-30**]  05:32 AM
                            [**2130-9-30**]  05:37 AM
                            [**2130-9-30**]  06:39 AM
                            [**2130-9-30**]  10:59 AM
                            [**2130-9-30**]  08:20 PM
                            [**2130-10-1**]  04:00 AM
   WBC
   8.6
   11.8
   12.9
   Hct
   33.4
   21.5
   20.4
   20.8
   28.9
   28.2
   Plt
   179
   271
   317
   Cr
   0.7
   0.6
   0.6
   TCO2
   30
   32
   34
   31
   Glucose
   140
   90
   120
   Other labs: PT / PTT / INR:13.5/28.9/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:82.9 %, Lymph:9.8 %, Mono:5.8 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, LDH:165 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   66m s/p prostatectomy with difficult intubation; course complicated by
   PNA requiring extended intubation; extubated yesterday.
   1) Pneumonia:  Doing well extubated.  Microbiology negative to date.
   - Micro data all negative, including sputum.  Will plan total of 8day
   course of vancomycin/ceftaz only, d/c ciprofloxacin today.
   2) Heme: HCT dropped yesterday, no discovered source of bleed.  He was
   hemodynamically stable and responded appropriately to transfusions.
   - F/u HCT tomorrow.
   3) Post-op prostectomy:  Stable and evaluating bleed as above.
   - follow-up urology recs and appreciate input today.
   ICU Care
   Nutrition: Sips of clears today, advance diet as tolerated
   Glycemic Control:  Insulin sliding scale
   Lines:
   16 Gauge - [**2130-9-26**] 06:30 PM
   18 Gauge - [**2130-9-28**] 08:46 AM
   Arterial Line - [**2130-9-28**] 09:43 AM
   Multi Lumen - [**2130-9-28**] 11:05 AM
   Prophylaxis:
   DVT: boots, holding heparin for post-op and ? bleed
   Stress ulcer: PPI
   Code status: Full code
   Disposition :Transfer to floor today